US04540583
Preparation of 1,4-bis(2-piperidinoethylamino)anthraquinone
A mixture of 4.07 g. or quinizarin, 21.74 g. of N-(2-aminoethyl)piperidine and 26 ml. of water is stirred under reflux for 2 hours and then allowed to stand overnight. The gummy solid is collected and washed with water by centrifugation, giving 1.99 g. of blue-black solid. This solid is dissolved in 15 ml. of chloroform and chromatographed by an abbreviated wet-column procedure on 100 g. of alumina, eluting with chloroform. A total of 180 ml. of eluate is collected in eight separate cuts from the time the eluate turns blue until a black band nears the bottom of the column. Cuts 1-6 are combined and evaporated giving 1.42 g. of blue-black crystals which are recrystallized from ethanol giving 1.35 g. of the desired product as blue-black needles, mp. 140°-141° C. Product dried in vacuo at 78° C. melted at 156°-157° C.

reactant | quinizarin | C=1C=CC2=C(C1)C(=O)C3=C(C=CC(=C3C2=O)O)O | C14H8O4
reactant | N-(2-aminoethyl)piperidine | NCCN1CCCCC1 | C7H16N2
solvent | water | O | H2O
product | 1,4-bis(2-piperidinoethylamino)anthraquinone | N1(CCCCC1)CCNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCCN1CCCCC1 | C28H36N4O2
